US06348474B1
5-Bromo-3-(2-chloro-4-cyanobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine
To a solution of 6-bromo-2-(N-(2-chloro-4-cyanobenzyl)acetamido)-3-nitropyridine (21.8 g) in ethanol (33 ml)-acetic acid (8.3 ml) was added iron powder (2.29 g) at room temperature, and the mixture was refluxed under heating for 2 hr. The reaction mixture was cooled, the insoluble matter was removed by filtration, and the solvent was evaporated. To the residue was added dichloromethane, and the product was extracted. The solvent was evaporated and the residue was purified by silica gel column chromatography (dichloromethane/methanol=30/1) to give the objective compound (1.90 g) as a pale-yellow powder.

reactant | 6-bromo-2-(N-(2-chloro-4-cyanobenzyl)acetamido)-3-nitropyridine | 21.8 g | BrC1=CC=C(C(=N1)N(C(C)=O)CC1=C(C=C(C=C1)C#N)Cl)[N+](=O)[O-] | C15H10BrClN4O3
reactant | acetic acid | 8.3 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 33 ml | C(C)O | C2H6O
catalyst | iron | 2.29 g | [Fe] | Fe
product | 5-Bromo-3-(2-chloro-4-cyanobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 1.90 g | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C#N)Cl | C15H10BrClN4
